US06713474B2
To a solution of tert-butyl 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-piperidinecarboxylate (0.69 g, 1.4 mmol) in dry CH2Cl2 (25 ml) at 0° C. was added TFA (5 ml). The solution was stirred at room temperature for 20 hr and the solvent evaporated. NaOH solution (5N, 10 ml) was added and the resulting slurry was extracted with EtOAc (3×50 ml). Wash with brine (1×50 ml). Dry, filter and concentrate to leave a solid which was triturated with diethylether and filtered to leave 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (433258) as a white solid (500 mg, 91%). M.pt 209-211° C. Rf in 1:1 EtOAc : MeOH=0.1. 1H NMR (d6 DMSO, 250 MHz) 8.13 (1H, s), 7.36-7.48 (4H, m), 7.29 (1H, s), 7.04-7.16 (5H, m), 5.80 (2H, bs), 4.64 (1H, m), 3.10 (2H, m), 2.80 (1H, bs), 2.67 (2H, m), 1.94 (4H, m). Mass spec. C23H23ON5 (385.1902). IR (KBr disc): 3278, 1620, 1585, 1490, 1245 cm−1.

reactant | tert-butyl 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-1-piperidinecarboxylate | 1.4 mmol, 0.69 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C28H31N5O3
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 500 mg, 91% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCNCC2 | C23H23N5O
